US08030504B2
(S)-3-(4-(dimethylamino)phenyl)cyclopentanone
The title compound was prepared using the procedure as described in Example 28A, substituting 2-cyclopenten-1-one for cyclohexen-1-one, S-BINAP and 4-(dimethylamino)-phenylboronic acid for 4-(tertbutyl)-phenylboronic acid. The mixture was purified on SiO2 (hexane/ethyl acetate 4/1) to provide the title compound. [α]D=−22.31 c=1.0 (CH3OH). 1H NMR (CD3OD, 300 MHz); δ 1.85-2.01 (m, 1H), 2.21-2.40 (m, 4H), 2.42-2.50 (m, 1H), 2.88 (s, 6H), 3.29-3.39 (m, 1H), 6.78-6.81 (m, 2H), 7.11-7.21 (m, 2H). MS (DCI) m/z 204 (M+H)+.

reactant | cyclohexen-1-one | C1(C=CCCC1)=O | C6H8O
reactant | 4-(dimethylamino)-phenylboronic acid | CN(C1=CC=C(C=C1)B(O)O)C | C8H12BNO2
reactant | 4-(tertbutyl)-phenylboronic acid | C(C)(C)(C)C1=CC=C(C=C1)B(O)O | C10H15BO2
product | (S)-3-(4-(dimethylamino)phenyl)cyclopentanone | CN(C1=CC=C(C=C1)[C@@H]1CC(CC1)=O)C | C13H17NO
